US05308830
Cyclohexylmethyl bromide (42 ml; 0.30 mol) was added over 5 min to 1,2,4-triazole-3-thiol (30.3 g; 0.30 mol) and sodium methoxide (17.3 g; 0.32 mol) in dry methanol (250 ml) under dry nitrogen. The mixture was refluxed for 4 h, stirred at room temperature overnight and evaporated. The residue was dissolved in ethyl acetate (400 ml) and water (200 ml). The organic phase is separated, washed with water (100 ml), dried (Na2SO4), filtered and its volume reduced by evaporation, causing a solid to precipitate. The solid was filtered off and dried, to afford cyclohexylmethyl 1,2,4-triazol-3-yl sulfide (48.0 g; 81%) as white plates, m.p. 74°-78° C. (Found, C: 54.98; H: 7.85; N: 21.32; S: 16.13. C9H15N3S requires C: 54.79; H: 7.66; N: 21.30; S: 16.25%). NMR - d(CDCl3 ; 90 MHz) 0.50-2.10 (11H, m), 3.1 (2H, d, J=6.4 Hz), 8.13 (1H, s) and 13.9 (1H, br s).

reactant | Cyclohexylmethyl bromide | 0.30 mol, 42 ml | C1(CCCCC1)CBr | C7H13Br
reactant | 1,2,4-triazole-3-thiol | 0.30 mol, 30.3 g | N1N=C(N=C1)S | C2H3N3S
reactant | sodium methoxide | 0.32 mol, 17.3 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | cyclohexylmethyl 1,2,4-triazol-3-yl sulfide | 48.0 g, 81% | N1N=C(N=C1)SCC1CCCCC1 | C9H15N3S
